US08357688B2
A mixed solution of 60 mg of 7-[(5-chloro-2,3-dihydro-1H-indol-1-yl)carbonyl]-1-[cyclopropyl(hydroxy)methyl]-8-methyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one and 3 mL of dichloromethane was cooled to −70° C., and 100 μL of N,N-diethylaminosulfur trifluoride was added thereto, followed by slowly warming to −20° C. over 4 hours. The reaction liquid was returned to room temperature and stirred overnight. To the mixed liquid were added a saturated aqueous sodium hydrogen carbonate solution and chloroform, followed by extraction with chloroform, the organic layer was washed with saturated brine and dried over anhydrous sodium sulfate, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (chloroform/methanol=100/0 to 97/3). To the obtained solid was added 4 mL of methanol, followed by warming and washing. The precipitate was collected by filtration and dried under reduced pressure to obtain 31 mg of 7-[(5-chloro-2,3-dihydro-1H-indol-1-yl)carbonyl]-1-[cyclopropyl(fluoro)methyl]-8-methyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one as a white solid.

reactant | 7-[(5-chloro-2,3-dihydro-1H-indol-1-yl)carbonyl]-1-[cyclopropyl(hydroxy)methyl]-8-methyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one | 60 mg | ClC=1C=C2CCN(C2=CC1)C(=O)C=1C=C2NC(C=3N(C2=CC1C)C(=NN3)C(O)C3CC3)=O | C23H20ClN5O3
reactant | dichloromethane | 3 mL | ClCCl | CH2Cl2
reactant | N,N-diethylaminosulfur trifluoride | 100 μL | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 7-[(5-chloro-2,3-dihydro-1H-indol-1-yl)carbonyl]-1-[cyclopropyl(fluoro)methyl]-8-methyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one | 31 mg | ClC=1C=C2CCN(C2=CC1)C(=O)C=1C=C2NC(C=3N(C2=CC1C)C(=NN3)C(F)C3CC3)=O | C23H19ClFN5O2
